US08859591B2
Trifluoroacetic acid (0.30 mL) was added to a solution of tert-butyl 3-(2-(cyclohexyl(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridine-3-yl)methylamino)nicotinamido)propanoate (30 mg, 0.052 mmol) in dichloromethane (0.4 mL). The mixture was stirred at room temperature for 2 hours. The reaction was concentrated and the residue was co-evaporated with dichloromethane, ethyl acetate and toluene several times, to give (+/−)-3-(2-(cyclohexyl(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propenoic acid, as a solid. 1H NMR (400 MHz, CDCl3, δ): 9.81 (br. s, 1H), 8.94 (hr. s, 1H), 8.31-8.21 (m, 1H), 8.15 (s, 1H), 7.87 (s, 1H), 7.66 (d, J=8.58 Hz, 2H), 7.61-7.51 (m, 1H), 7.39 (d, J=8.39 Hz, 2H), 6.70-6.58 (m, 1H), 4.29-4.17 (m, 1H), 3.69-3.53 (m, 2H), 2.76-2.65 (m, 2H), 2.00-0.91 (m, 11H). MS (M+1): 516.2.

reactant | Trifluoroacetic acid | 0.30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-(2-(cyclohexyl(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridine-3-yl)methylamino)nicotinamido)propanoate | 0.052 mmol, 30 mg | C1(CCCCC1)N(C1=C(C(=O)NCCC(=O)OC(C)(C)C)C=CC=N1)CC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F | C29H35F3N6O3
solvent | dichloromethane | 0.4 mL | ClCCl | CH2Cl2
product | (+/−)-3-(2-(cyclohexyl(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propenoic acid | C1(CCCCC1)N(C1=C(C(=O)NC=CC(=O)O)C=CC=N1)CC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F | C26H26F3N5O3
